US04684656
A reaction mixture containing 2-[(3-nitrophenyl)methylene]-3-oxobutanoic acid, ethyl ester (2.62 g, 10.0 mmole), O-methylpseudourea hydrogen sulfate (1.72 g, 10.0 mmole), and sodium bicarbonate (2.52 g, 30.0 mmole) in dimethylformamide (7 ml) was heated at 65°-70° C. for 16 hours. The reaction mixture was allowed to cool to room temperature, diluted with ethyl acetate, and filtered. The filtrate was washed with water and brine, and then dried over anhydrous magnesium sulfate. Evaporation of the solvent gave a yellow oil which was purified by flash chromatography (5% ethyl acetate in dichloromethane). The resulting foam was crystallized from isopropyl ether/hexanes to provide 2.41 g of 1, 4-dihydro-2-methoxy-6-methyl -4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, ethyl ester as a colorless crystalline product; melting point 103.5°-105° C. Analysis Calc'd. for C15H17N3O5 :

reactant | 2-[(3-nitrophenyl)methylene]-3-oxobutanoic acid, ethyl ester | 10.0 mmole, 2.62 g | [N+](=O)([O-])C=1C=C(C=CC1)C=C(C(=O)OCC)C(C)=O | C13H13NO5
reactant | O-methylpseudourea hydrogen sulfate | 10.0 mmole, 1.72 g | S(=O)(=O)(O)O.COC(N)=N
reactant | sodium bicarbonate | 30.0 mmole, 2.52 g | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1, 4-dihydro-2-methoxy-6-methyl -4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, ethyl ester | 2.41 g | COC=1NC(=C(C(N1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C15H17N3O5
